US05703096
24(a) 5-{4-[2-(1,4-Dimethyl-2-phenylimidazol-5-ylmethyleneaminooxy)ethoxy]benzyl}-3-tritylthiazolidine-2,4-dione
Following a procedure similar to that described in Example 1(a), but using 420 mg of 2-(1,4-dimethyl-2-phenylimidazol-5-ylmethyleneaminooxy)ethanol (prepared as described in Preparation 24), 580 mg of 5-(4-hydroxybenzyl)-3-tritylthiazolidine-2,4-dione, 425 mg of triphenylphosphine and 282 mg of diethyl azodicarboxylate, 646 mg of the title compound were obtained as a foam-like solid.

reactant | 2-(1,4-dimethyl-2-phenylimidazol-5-ylmethyleneaminooxy)ethanol | 420 mg | CN1C(=NC(=C1C=NOCCO)C)C1=CC=CC=C1 | C14H17N3O2
reactant | 5-(4-hydroxybenzyl)-3-tritylthiazolidine-2,4-dione | 580 mg | OC1=CC=C(CC2C(N(C(S2)=O)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)C=C1 | C29H23NO3S
reactant | triphenylphosphine | 425 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 282 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
product | 5-{4-[2-(1,4-Dimethyl-2-phenylimidazol-5-ylmethyleneaminooxy)ethoxy]benzyl}-3-tritylthiazolidine-2,4-dione | 646 mg | CN1C(=NC(=C1C=NOCCOC1=CC=C(CC2C(N(C(S2)=O)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)C=C1)C)C1=CC=CC=C1 | C43H38N4O4S
